US05880126
350 mg of 6-benzyloxy-4-methoxymethyl-9-{6-[N-methyl-N-(2-phenylethyl)-amino]-2-oxohexyl}-9H-pyrido[3,4-b]indole-3-carboxylic acid-(1-methylethyl)-ester (0.55 mmol) is mixed in 10 ml of methanol with 1 ml of 2N aqueous sodium hydroxide solution and held at 40° C. until the reaction is completed. Then, the reaction mixture is acidified with dilute hydrochloric acid, and the precipitated product is suctioned off. It is washed with water and then with diethyl ether, dried in a vacuum, and 212 mg of 6-benzyloxy-4-methoxymethyl-9-{6-[N-methyl-N-(2-phenylethyl)-amino]-2-oxohexyl}-9H-pyrido-[3,4-b]-indole-3-carboxylic acid is obtained as a yellow, amorphous powder.

reactant | 6-benzyloxy-4-methoxymethyl-9-{6-[N-methyl-N-(2-phenylethyl)-amino]-2-oxohexyl}-9H-pyrido[3,4-b]indole-3-carboxylic acid-(1-methylethyl)-ester | 0.55 mmol, 350 mg | CC(C)OC(=O)C1=C(C2=C(N(C3=CC=C(C=C23)OCC2=CC=CC=C2)CC(CCCCN(CCC2=CC=CC=C2)C)=O)C=N1)COC | C39H45N3O5
reactant | sodium hydroxide | 2N, 1 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 6-benzyloxy-4-methoxymethyl-9-{6-[N-methyl-N-(2-phenylethyl)-amino]-2-oxohexyl}-9H-pyrido-[3,4-b]-indole-3-carboxylic acid | 212 mg | C(C1=CC=CC=C1)OC=1C=C2C3=C(N(C2=CC1)CC(CCCCN(CCC1=CC=CC=C1)C)=O)C=NC(=C3COC)C(=O)O | C36H39N3O5
